US07265121B2
1-(4-Methoxybenzoyl-D-valinyl)-4-(1-methylpiperidin-4-yl)-piperidine Hydrochloride
To a solution of 1-(4-methoxybenzoyl-D-valinyl)-4-(1-methylpiperidin-4-yl)piperidine (14.75 g, 35.5 mmol) in anhydrous CH2Cl2 (400 mL) cooled to 0° C. is added HCl in Et2O (1 M, 35.9 mL, 35.9 mmol). After approximately 5 min, the solvent is removed in vacuo to give 16.9 g (quantitative) of the title compound as a white foam.

reactant | 1-(4-methoxybenzoyl-D-valinyl)-4-(1-methylpiperidin-4-yl)piperidine | 35.5 mmol, 14.75 g | COC1=CC=C(C(=O)N[C@H](C(C)C)C(=O)N2CCC(CC2)C2CCN(CC2)C)C=C1 | C24H37N3O3
reactant | HCl | Cl | ClH
reactant | Et2O | 35.9 mmol, 1 M, 35.9 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Methoxybenzoyl-D-valinyl)-4-(1-methylpiperidin-4-yl)-piperidine Hydrochloride | Cl.COC1=CC=C(C(=O)N[C@H](C(C)C)C(=O)N2CCC(CC2)C2CCN(CC2)C)C=C1 | InChI=1S/C24H37N3O3.ClH/c1-17(2)22(25-23(28)20-5-7-21(30-4)8-6-20)24(29)27-15-11-19(12-16-27)18-9-13-26(3)14-10-18;/h5-8,17-19,22H,9-16H2,1-4H3,(H,25,28);1H/t22-;/m1./s1
